US07531565B2
1-(4-Fluoro-phenyl)-4-methyl-2-oxo-imidazolidine-4-carboxylic acid (5a)
A solution of 1-(4-fluoro-phenyl)-4-methyl-2-oxo-imidazolidine-4-carboxylic acid methyl ester (247 mg, 0.98 mmol) in methanol (15 mL) was treated with aqueous NaOH (1.50 mL, 6.38 mmol). After stirring 1 hour at room temperature, the mixture was treated with 1N HCl to pH 1 and the resulting white precipitate collected by filtration (135 mg, 58%).

reactant | 1-(4-fluoro-phenyl)-4-methyl-2-oxo-imidazolidine-4-carboxylic acid methyl ester | 0.98 mmol, 247 mg | COC(=O)C1(NC(N(C1)C1=CC=C(C=C1)F)=O)C | C12H13FN2O3
reactant | NaOH | 6.38 mmol, 1.50 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
product | 1-(4-Fluoro-phenyl)-4-methyl-2-oxo-imidazolidine-4-carboxylic acid | FC1=CC=C(C=C1)N1C(NC(C1)(C(=O)O)C)=O | C11H11FN2O3
